US05688798
A suspension of 0.23 g (0.0012 mol) of 5-chloromethyl-2-methyl-pyrimidin-4-ylamine in 10 ml of dimethylformamide was treated with 0.42 ml (0.0030 mol) of triethylamine and 0.29 g (0.0012 mol) of 7-benzyloxy-1,2,3,4-tetrahydro-isoquinoline and the mixture was stirred at room temperature under argon for 18 hours. The solvent was distilled off in a high vacuum. The residue was partitioned between dichloromethane/water, extracted and dried over MgSO4. After removing the solvent the residue was chromatographed on silica gel with ethyl acetate as the eluent. 0.22 g (51%) of 5-(7-benzyloxy-3,4-dihydro-1H-isoquinolin-2-ylmethyl)-2-methyl-pyrimidin-4-ylamine was obtained as a colourless solid; m.p. 151°-153°.

reactant | 5-chloromethyl-2-methyl-pyrimidin-4-ylamine | 0.0012 mol, 0.23 g | ClCC=1C(=NC(=NC1)C)N | C6H8ClN3
reactant | triethylamine | 0.0030 mol, 0.42 ml | C(C)N(CC)CC | C6H15N
reactant | 7-benzyloxy-1,2,3,4-tetrahydro-isoquinoline | 0.0012 mol, 0.29 g | C(C1=CC=CC=C1)OC1=CC=C2CCNCC2=C1 | C16H17NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 5-(7-benzyloxy-3,4-dihydro-1H-isoquinolin-2-ylmethyl)-2-methyl-pyrimidin-4-ylamine | 0.22 g, 51% | C(C1=CC=CC=C1)OC1=CC=C2CCN(CC2=C1)CC=1C(=NC(=NC1)C)N | C22H24N4O
